US04913838
A solution of silver nitrate (177 g, 1.1 mol) in water (500 ml) was dropwise added to a solution in water (500 ml), of a mixture of (S)-4-(2'-methylbutyl)benzoic acid (200 g, 1.0 mol), nitric acid (680 ml) and bromine (183 g, 1.1 mol), under ice-cooling, followed by agitating the mixture at room temperature for 5 hours, feeding it into ice water, filtering deposited crystals, adding a 10% sodium carbonate aqueous solution (2 l), sufficiently agitating the mixture, filtering off a remaining insoluble substance, acidifying the filtrate with sulfuric acid, filtering deposited crystals and recrystallizing from acetic acid (1 l) to obtain 3-bromo-4-(2'-methylbutyl)benzoic acid (106.0 g, m.p. 78.8°-79.7° C.).

reactant | (S)-4-(2'-methylbutyl)benzoic acid | 1.0 mol, 200 g | C[C@H](CC1=CC=C(C(=O)O)C=C1)CC | C12H16O2
reactant | nitric acid | 680 ml | [N+](=O)(O)[O-] | HNO3
reactant | bromine | 1.1 mol, 183 g | BrBr | Br2
solvent | water | 500 ml | O | H2O
solvent | water | 500 ml | O | H2O
catalyst | silver nitrate | 1.1 mol, 177 g | [N+](=O)([O-])[O-].[Ag+]
product | 3-bromo-4-(2'-methylbutyl)benzoic acid | 106.0 g | BrC=1C=C(C(=O)O)C=CC1CC(CC)C | C12H15BrO2
